US07691879B2
6-methoxy-4-phenyl-1-[(pyridin-2-ylmethyl)amino]isoquinoline-3-carbonitrile
Following the procedure for 1-(allylamino)-6-methoxy-4-phenylisoquinoline-3-carbonitrile, using (pyridin-2-ylmethyl)amine in place of allylamine and heating for 35 min instead of 1 h, the title compound was synthesized.

reactant | 1-(allylamino)-6-methoxy-4-phenylisoquinoline-3-carbonitrile | C(C=C)NC1=NC(=C(C2=CC(=CC=C12)OC)C1=CC=CC=C1)C#N | C20H17N3O
reactant | (pyridin-2-ylmethyl)amine | N1=C(C=CC=C1)CN | C6H8N2
product | 6-methoxy-4-phenyl-1-[(pyridin-2-ylmethyl)amino]isoquinoline-3-carbonitrile | COC=1C=C2C(=C(N=C(C2=CC1)NCC1=NC=CC=C1)C#N)C1=CC=CC=C1 | C23H18N4O
